US08114877B2
b) 2-Ethyl-5-oxo-5,6,7,8-tetrahydro-imidazo[1,5-c]pyrimidin-2-ium iodide
7,8-Dihydro-6H-imidazo[1,5-c]pyrimidin-5-one (1.00 g, 7.30 mmol) and ethyl iodide (3.42 g, 21.90 mmol) are placed in a 10-20 mL microwave vial. Acetonitrile (10 mL) is added and the reaction mixture is heated to 120° C. using microwave radiation. The reaction is shown to be complete by NMR after 1 hour. The crystalline material is filtered off and washed with ice-cold acetonitrile to give the title compound. 1H nmr (MeOD, 400 MHz); 7.60 (s, 1H), 4.35 (q, 2H), 3.65 (t, 2H), 3.15 (t, 2H), 1.60 (t, 3H).

reactant | 7,8-Dihydro-6H-imidazo[1,5-c]pyrimidin-5-one | 7.30 mmol, 1.00 g | C=1N=CN2C(NCCC21)=O | C6H7N3O
reactant | ethyl iodide | 21.90 mmol, 3.42 g | C(C)I | C2H5I
solvent | Acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-Ethyl-5-oxo-5,6,7,8-tetrahydro-imidazo[1,5-c]pyrimidin-2-ium iodide | [I-].C(C)[N+]1=CN2C(NCCC2=C1)=O | InChI=1S/C8H11N3O.HI/c1-2-10-5-7-3-4-9-8(12)11(7)6-10;/h5-6H,2-4H2,1H3;1H
